.SUBCKT LM317-mod    1    2    3
* Tuned by Stanislaw Leschinsky (stass@fulcrum.ru) from model called "LM317-1".
*  Checked passives with NSC datasheet # DS009063, instead of:
* R20 increased for current limiting threshold at 1.68 A;
* R24 increased for S.O.A., but still not properly worked - triple more current;
* R27 set to 25 Ohm mid. value. At die photo it's factory trimmed to desired temperature coefficient.
*  Relative transistor area as LM317-1, instead of:
* Q26 and Q25 - seems much larger at die photo than 20 and 2 respectively;
* QT24_2 at die photo have 9-10 emitters;
* Transistor's Is (mostly for NPN) tailored for min. temperature coefficient with turnover at 20 °C.
*  
V500 1 40 0
* Quescent current sense (all except Q25, Q26 which supply most of all load current).

D4            4   3  D_Z6V0
D3            5   6  D_Z6V3
D2            7   40  D_Z6V3
D1            3   8  D_Z6V3
QT26          1  10   9  Q_NPN 56
QT25          1  11  10  Q_NPN 6
QT24_2       13  12   5  Q_NPN 1
QT24         13  12  14  Q_NPN 0.1
QT23         17  16  15  Q_NPN 1.0
QT21         19  18   3  Q_NPN 0.1
QT19         21   3  20  Q_NPN 1.0
QT17         23   3  22  Q_NPN 0.1
QT13          40  25  24  Q_NPN 0.1
QT11         16  27  26  Q_NPN 0.1
QT7          30  29  28  Q_NPN 0.1
QT5          29  31   3  Q_NPN 0.1
QT3          33  31  32  Q_NPN 0.1
QT22_2       17  17   40  Q_PNP 1.0
QT22         16  17   40  Q_PNP 1.0
QT20          3  19  16  Q_PNP 0.1
QT18         21  21  16  Q_PNP 0.1
QT16         23  21  16  Q_PNP 0.1
QT15          3  23  25  Q_PNP 0.1
QT12          3  24  16  Q_PNP 0.1
QT9          27  30  34  Q_PNP 0.1
QT6           3  29  34  Q_PNP 0.1
QT14         25  33  35  Q_PNP 0.1
QT10         16  33  36  Q_PNP 0.1
QT8          34  33  37  Q_PNP 0.1
QT4          31  33  38  Q_PNP 0.1
QT2          33  33  39  Q_PNP 0.1
R27           4   2  25
R26           9   3  0.1
R25           9  14  3
R24           5  14  240
R23           7   6  18K
R22          10   3  160
R21          12  13  400
R20          18  13  60K
R19          16  11  370
R18          15  10  130
R17          16  12  12K
C3           19  18  5P
R16          16  19  6.7K
R15          20  22  2.4K
R14          22   4  12K
C2           23   4  30P
C1           23   3  30P
R13          24   3  5.1K
R12          26   3  72
R11          27   3  5.8K
R10          28   3  4.1K
R9           32   3  180
R8           34  30  12.4K
R7           31  29  130
R6            8  31  200K
R5            40  35  5.6K
R4            40  36  82
R3            40  37  190
R2            40  38  310
R1            40  39  310
JT1           40   3   8  J_N

.MODEL D_Z6V0 D( IS=10F N=1.04 BV=6.0 IBV=1M CJ0 = 1P TT = 10p )
.MODEL D_Z6V3 D( IS=10F N=1.04 BV=6.3 IBV=1M CJ0 = 1P TT = 10p )
.MODEL Q_NPN NPN( IS=48f NF=1.04 NR=1.04 BF=100 CJC=1P CJE=2P
+       TF=10P TR=1N VAF=90)
.MODEL Q_PNP PNP( IS=5f NF=1.04 NR=1.04 BF=50 CJC=1P CJE=2P
+      TF=10P TR=1N VAF=45)
.MODEL J_N NJF( VTO=-7 )

.ENDS LM317-mod